US04879382
To a warm Grignard reagent prepared from 7.2 g of 4-chloro-1-methyl piperidine and 1.4 g of magnesium metal in 50 ml of tetrahydrofuran was added a solution of 5.3 g of 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 50 ml of tetrahydrofuran. The reaction mixture was stirred at ambient temperature for 15 minutes, added to an iced ammonium chloride solution and extracted with ethyl acetate (3×). The combined organics were washed with water (2×) followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The resultant solid was purified by means of high pressure liquid chromatography (silica gel; elution with 50% methanol/dichloromethane). Recrystallization from ethyl acetate:methanol (20:1) afforded 1.65 g of 10,11-dihydro-5-methyl-10-[(1-methyl)piperidin-4-yl]-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine, mp: 235°-238° C. (dec.).

reactant | 4-chloro-1-methyl piperidine | 7.2 g | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 1.4 g | [Mg] | Mg
reactant | 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 5.3 g | CN1N2C(C=NC3=C1C=CN=C3)=CC=C2 | C11H10N4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-5-methyl-10-[(1-methyl)piperidin-4-yl]-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 1.65 g | CN1N2C(C(NC3=C1C=CN=C3)C3CCN(CC3)C)=CC=C2 | C17H23N5
